US07157463B2
8-(Piperazin-1-yl)quinoline (490 mg, 2.3 mmol) is dissolved in DCM (30 mL), and Boc2O (2 g, 9.2 mmol) is added in one portion. The mixture is stirred for about 2 hours at r.t. and then concentrated. The residue is purified to give about 644 mg of 8-(4-t-butyloxycarbonylpiperazin-1-yl)quinoline (89%).

reactant | 8-(Piperazin-1-yl)quinoline | 2.3 mmol, 490 mg | N1(CCNCC1)C=1C=CC=C2C=CC=NC12 | C13H15N3
reactant | Boc2O | 9.2 mmol, 2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 8-(4-t-butyloxycarbonylpiperazin-1-yl)quinoline | about 644 mg, 89% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2C=CC=NC12 | C18H23N3O2
